US08748412B2
3-{4-[5-(4-tert-Butoxycarbonylamino-phenyl)-[1,2,4]oxadiazol-3-yl]-3-fluoro-phenyl}-2-(2-piperidin-1-yl-pyrimidin-4-ylamino)-propionic acid 62
3-{4-[5-(4-tert-Butoxycarbonylamino-phenyl)-[1,2,4]oxadiazol-3-yl]-3-fluoro-phenyl}-2-(2-chloro-pyrimidin-4-ylamino)-propionic acid ethyl ester. To solution of 2-Amino-3-{4-[5-(4-tert-butoxycarbonylamino-phenyl)-[1,2,4]oxadiazol-3-yl]-3-fluorophenyl}propionic acid ethyl ester in DMF (20 mL) were added sodium carbonate (360 mg, 3.4 mmol), potassium iodide (10 mg), TBAB (10 mg), and 2,4-dichloro-pyrimidine (503 mg, 3.4 mmol). The mixture was heated at 50° C. for 4 hrs. The mixture was cooled to room temperature and partitioned between ethyl acetate and water. The combined organic layers were washed with brine, dried over sodium sulfate, filtrated, concentrated, and purified by chromatography to give the title compound (96 mg).

reactant | 3-{4-[5-(4-tert-Butoxycarbonylamino-phenyl)-[1,2,4]oxadiazol-3-yl]-3-fluoro-phenyl}-2-(2-chloro-pyrimidin-4-ylamino)-propionic acid ethyl ester | C(C)OC(C(CC1=CC(=C(C=C1)C1=NOC(=N1)C1=CC=C(C=C1)NC(=O)OC(C)(C)C)F)NC1=NC(=NC=C1)Cl)=O | C28H28ClFN6O5
reactant | 2-Amino-3-{4-[5-(4-tert-butoxycarbonylamino-phenyl)-[1,2,4]oxadiazol-3-yl]-3-fluorophenyl}propionic acid ethyl ester | C(C)OC(C(CC1=CC(=C(C=C1)C1=NOC(=N1)C1=CC=C(C=C1)NC(=O)OC(C)(C)C)F)N)=O | C24H27FN4O5
reactant | sodium carbonate | 3.4 mmol, 360 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | 10 mg | [I-].[K+]
reactant | 2,4-dichloro-pyrimidine | 3.4 mmol, 503 mg | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
catalyst | TBAB | 10 mg | CCCC[N+](CCCC)(CCCC)CCCC.[Br-]
product | 3-{4-[5-(4-tert-Butoxycarbonylamino-phenyl)-[1,2,4]oxadiazol-3-yl]-3-fluoro-phenyl}-2-(2-piperidin-1-yl-pyrimidin-4-ylamino)-propionic acid | 96 mg | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)C1=NC(=NO1)C1=C(C=C(C=C1)CC(C(=O)O)NC1=NC(=NC=C1)N1CCCCC1)F | C31H34FN7O5
